US09102671B2
To a solution of (2R,4R)-tert-butyl 2-(3-cyano-5-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate (I-13A) (0.52 g, 1.7 mmol) and trichloroisocyanuric acid (0.4 g, 1.7 mmol) in DCM (20 mL) at −10° C. was added 2,2,6,6-tetramethylpiperidine-1-oxyl (TEMPO) (27 mg, 0.17 mmol). The mixture was stirred at −10° C. for 15 minutes, then to room temperature over 1 hour and subsequently poured into cold aqueous NaHCO3 containing ice while stirring. The organic layer was separated, washed with brine, dried over sodium sulfate, filtered and reduced to dryness to yield (R)-tert-butyl 2-(3-cyano-5-fluorophenyl)-4-oxopyrrolidine-1-carboxylate (I-16). 1H NMR (400 MHz, CDCl3) δ 7.27-7.22 (m, 2 H), 7.12 (td, J=2.0, 8.8 Hz, 1 H), 5.33 (bs, 1 H), 4.06 (d, J=19.6 Hz, 1 H), 3.86 (d, J=19.6 Hz, 1 H), 3.15 (dd, J=10.0, 18.8 Hz, 1 H), 2.47 (dd, J=3.2, 18.8 Hz, 1 H), 1.35 (bs, 9 H). MS m/z 249.1 (M−56)+.

reactant | (2R,4R)-tert-butyl 2-(3-cyano-5-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate | 1.7 mmol, 0.52 g | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C16H19FN2O3
reactant | trichloroisocyanuric acid | 1.7 mmol, 0.4 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | 2,2,6,6-tetramethylpiperidine-1-oxyl | 0.17 mmol, 27 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-(3-cyano-5-fluorophenyl)-4-oxopyrrolidine-1-carboxylate | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(CC(C1)=O)C(=O)OC(C)(C)C | C16H17FN2O3
